* /home/inderjitsingh/esim-workspace/32_bit_sram_isd_sch/32_bit_sram_isd_sch.cir

.include 8_bit_SRAM_sym.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
x1 win r_enbl net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ net-_u9-pad9_ ? ? ? out28 out27 ? out25 ? 8_bit_SRAM_sym
x2 win r_enbl net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ net-_u8-pad15_ net-_u8-pad16_ ? out23 ? ? out20 out19 ? out17 ? 8_bit_SRAM_sym
x3 win r_enbl net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u10-pad9_ out15 ? out13 ? ? ? ? ? 8_bit_SRAM_sym
x4 win r_enbl net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ net-_u11-pad9_ ? ? ? ? ? ? ? ? 8_bit_SRAM_sym
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ fivetothree_two_decoder_isd
* u7  a4 a3 a2 a1 a0 net-_u7-pad6_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ adc_bridge_6
* u9  net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ dac_bridge_8
* u8  net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ ? net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ net-_u8-pad15_ net-_u8-pad16_ dac_bridge_8
* u10  net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ dac_bridge_8
* u11  net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ dac_bridge_8
v1  a4 gnd pulse(0 1.8 0 1n 1n 12m 24m)
v2  a3 gnd pulse(0 1.8 0.5m 1n 1n 8m 12m)
v3  a2 gnd pulse(0 1.8 1.5m 1n 1n 4m 6m)
v4  a1 gnd pulse(0 1.8 0.25m 1n 1n 2m 4m)
v5  a0 gnd pulse(0 1.8 0 1n 1n 1m 2m)
v6 net-_u7-pad6_ gnd  dc 1.8
* u2  a4 plot_v1
* u3  a3 plot_v1
* u4  a2 plot_v1
* u5  a1 plot_v1
* u6  a0 plot_v1
v7  win gnd pulse(0 1.8 0 1n 1n 16m 22m)
v8  r_enbl gnd pulse(0 1.8 0 1n 1n 20m 40m)
* s c m o d e
* u12  out20 plot_v1
* u13  out13 plot_v1
* u14  win plot_v1
* u15  r_enbl plot_v1
* u25  out15 plot_v1
* u18  out17 plot_v1
* u20  out19 plot_v1
* u24  out23 plot_v1
* u17  out25 plot_v1
* u22  out27 plot_v1
* u29  out28 plot_v1
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] [net-_u1-pad6_ ] [net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ ] u1
a2 [a4 a3 a2 a1 a0 net-_u7-pad6_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u7
a3 [net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ ] [net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ ] u9
a4 [net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ ] [? net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ net-_u8-pad15_ net-_u8-pad16_ ] u8
a5 [net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ ] [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ ] u10
a6 [net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ ] [net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ ] u11
* Schematic Name:                             fivetothree_two_decoder_isd, NgSpice Name: fivetothree_two_decoder_isd
.model u1 fivetothree_two_decoder_isd(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 2e-03 24e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a4)+32 v(a3)+30 v(a2)+28 v(a1)+26 v(a0)+24 v(out20)+10 v(out13)+18 v(win)+20 v(r_enbl)+22 v(out15)+16 v(out17)+14 v(out19)+12 v(out23)+8 v(out25)+6 v(out27)+4 v(out28)+2 
.endc
.end
